US08895733B2
Intermediate 216: 6-Ethoxypyridine-3-carboxylic acid
Potassium hydroxide powder (0.373 g, 12.005 mmol) and EtOH (0.3 mL, 6.002 mmol) were added to a solution of 6-chloropyridine-3-carboxylic acid (0.473 g, 3.001 mmol) in DMSO (12 mL) at room temperature. The reaction mixture was heated at 100 C for 21 h, and cooled to room temperature. A 1M aqueous solution of HCl was added. The resulting precipitate was collected by filtration, washed with water and dried under vacuum to afford the title compound (356 mg, 71%). Method B HPLC-MS: MH+ requires m/z=168. Found: m/z=168, Rt=1.50 min (95%).

reactant | Potassium hydroxide | 12.005 mmol, 0.373 g | [OH-].[K+]
reactant | EtOH | 6.002 mmol, 0.3 mL | CCO | C2H6O
reactant | 6-chloropyridine-3-carboxylic acid | 3.001 mmol, 0.473 g | ClC1=CC=C(C=N1)C(=O)O | C6H4ClNO2
reactant | HCl | Cl | ClH
solvent | DMSO | 12 mL | CS(=O)C | C2H6OS
product | 6-Ethoxypyridine-3-carboxylic acid | 356 mg, 71% | C(C)OC1=CC=C(C=N1)C(=O)O | C8H9NO3
